US05073550
A mixture of 204 mg of 3,4-dihydroxybenzenesulphonic hydrazide and 379 mg of 2-methyl-2-(phthalimidooxy)thiopropionic acid S-(2-benzothiazolyl) ester was heated to 60° C. in 5 ml of acetonitrile for 3 hours. After cooling, any undissolved material was filtered off under suction. The filtrate was freed from solvent in a vacuum and the residue was taken up in 3 ml of ethanol. The suspension was treated with 100 mg of hydrazine hydrate and stirred at 20° C. for 1 hour. A clear solution first resulted, from which a white precipitate separated out. Undissolved material was filtered off and the filtrate was evaporated in a vacuum. The crystalline residue was triturated with 10 ml of 0.1N aqueous hydrochloric acid for 10 minutes and the insoluble material was separated by filtration. The filtrate was adjusted to pH 7 by addition of 2N aqueous sodium hydroxide solution and chromatographed on MCI gel CHP20P, with elution being carried out first with 2% aqueous acetic acid and then with water/methanol (9:1, v/v). By evaporation of the product fractions in a vacuum, there was obtained 2-[2-(aminooxy)-2-methylpropionyl]-1-[(3,4-di-hydroxyphenyl)sulphonyl]hydrazine as white crystals of melting point 220° C. (dec.).

reactant | 3,4-dihydroxybenzenesulphonic hydrazide | 204 mg | OC=1C=C(C=CC1O)S(=O)(=O)NN | C6H8N2O4S
reactant | 2-methyl-2-(phthalimidooxy)thiopropionic acid S-(2-benzothiazolyl) ester | 379 mg | S1C(=NC2=C1C=CC=C2)SC(C(C)(ON2C(C=1C(C2=O)=CC=CC1)=O)C)=O | C19H14N2O4S2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-[2-(aminooxy)-2-methylpropionyl]-1-[(3,4-di-hydroxyphenyl)sulphonyl]hydrazine | NOC(C(=O)NNS(=O)(=O)C1=CC(=C(C=C1)O)O)(C)C | C10H15N3O6S
